US04794188
2-(3-(6-Benzyloxy-1-hydroxyhexyl)phenoxymethyl) quinoline
2-Chloromethyl quinoline (3.6 g) was refluxed with 3-(6-benzyloxy-1-hydroxyhexyl)phenol (4.2 g), powdered potassium carbonate (8 g) and potassium iodide (0.2 g) in dry acetone (150 ml) overnight (16 hrs.). The suspension was filtered, the filtrate was concentrated in vacuo and then taken up in ethyl acetate. This solution was washed with 5% NaOH solution, water and brine and then dried. All solvent was removed to obtain the crude product which was purified by chromatography (silica gel; 30% ethyl acetate in hexanes). The pure compound was dissolved in ether, and was precipitated as the hydrochloride salt with a dry ethereal solution of HCl. The pure salt was filtered, washed with cold water, and dried in vacuo to yield a tan powder (1.5 g), mp 86°-89° C.

reactant | 2-Chloromethyl quinoline | 3.6 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | 3-(6-benzyloxy-1-hydroxyhexyl)phenol | 4.2 g | C(C1=CC=CC=C1)OCCCCCC(O)C=1C=C(C=CC1)O | C19H24O3
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2-(3-(6-Benzyloxy-1-hydroxyhexyl)phenoxymethyl) quinoline | 1.5 g | C(C1=CC=CC=C1)OCCCCCC(O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C29H31NO3
